US20010053785A1
(2S)-2-[4′-(2-Benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid
Sodium hydroxide (2.5 N, 10 mL) was added into a mixture of (2S)-2-[4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid methyl ester (2.5 g, 4.65 mmol), methyl alcohol (40 mL) and tetrahydrofuran (40 mL). The reaction mixture was stirred for 1 hour, poured into water, acidified with HCl (2 N), and extracted with ethyl ether. The organic extracts were dried over MgSO4. Evaporation and crystallization from ethyl ether/hexanes gave a white solid (2.32 g, 95% yield): mp 167-169; MS m/e 376 (M+);

reactant | Sodium hydroxide | 2.5 N, 10 mL | [OH-].[Na+]
reactant | (2S)-2-[4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid methyl ester | 4.65 mmol, 2.5 g | COC([C@H](CC1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(OC2=C1C=CC=C2)CC2=CC=CC=C2)=O | C37H30O4
reactant | methyl alcohol | 40 mL | CO | CH4O
reactant | HCl | 2 N | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (2S)-2-[4′-(2-Benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid | 2.32 g, 95% yield | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O[C@H](C(=O)O)CC1=CC=CC=C1)C=CC=C2 | C36H28O4
